US05739336
A mixture of 8-[5,5-ethylenedioxy-5-(5-chloro-2-methoxyphenyl)pentyl]-1,3,8-triaza-spiro[4.5]decane-2,4-dione (1-1.1 g, 2.3-2.6 mmol), prepared as in Example 23, 10% hydrochloric acid (approximately 1 mL) and methanol (approximately 30 mL) was heated to a boil and then allowed to cool and stand approximately 4 hour at 25° C. The solids were collected and dried under vacuum at 70° C. to give 8-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]-1,3,8-triazaspiro[4.5]decane-2,4-dione hydrochloride (0.37 g, 0.57 mmol), m.p. 260°-262° C.

reactant | 8-[5,5-ethylenedioxy-5-(5-chloro-2-methoxyphenyl)pentyl]-1,3,8-triaza-spiro[4.5]decane-2,4-dione | 2.3-2.6 mmol, 1-1.1 g | C1OC(CCCCN2CCC3(C(NC(N3)=O)=O)CC2)(C2=C(C=CC(=C2)Cl)OC)OC1 | C21H28ClN3O5
reactant | hydrochloric acid | approximately 1 mL | Cl | ClH
solvent | methanol | approximately 30 mL | CO | CH4O
product | 8-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]-1,3,8-triazaspiro[4.5]decane-2,4-dione hydrochloride | 0.57 mmol, 0.37 g | Cl.ClC=1C=CC(=C(C1)C(CCCCN1CCC2(C(NC(N2)=O)=O)CC1)=O)OC | InChI=1S/C19H24ClN3O4.ClH/c1-27-16-6-5-13(20)12-14(16)15(24)4-2-3-9-23-10-7-19(8-11-23)17(25)21-18(26)22-19;/h5-6,12H,2-4,7-11H2,1H3,(H2,21,22,25,26);1H
